US07812022B2
Step E: N-{5-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluorophenyl}-2,2,2-trifluoroacetamide
To a solution of N-{5-[(2-chloro-4-pyrimidinyl)ethynyl]-2-fluorophenyl}-2,2,2-trifluoroacetamide (4.6 g, 13 mmol) in DMF (100 mL) was added aminopyridinium iodide (5.9 g, 27 mmol) and potassium carbonate (5.5 g, 40 mmol). After stirring 2 h at rt, the reaction mixture was diluted with diethyl ether (250 mL) and EtOAc (250 mL), and washed with water. The organic layer was adsorbed to silica gel and purified by column chromatography to afford the desired product (3.2 g, 55%) as a tan solid. 1H NMR (400 MHz, CDCl3): δ 8.57 (m, 2H), 8.31 (d, J=5.5 Hz, 1H), 8.14 (s, 1H), 7.47 (m, 2H), 7.31 (t, J=9.4 Hz, 1H), 7.04 (t, J=6.8 Hz), 6.99 (d, J=5.3 Hz, 1H). ES-LC/MS m/z=436 [M+H]+.

reactant | N-{5-[(2-chloro-4-pyrimidinyl)ethynyl]-2-fluorophenyl}-2,2,2-trifluoroacetamide | 13 mmol, 4.6 g | ClC1=NC=CC(=N1)C#CC=1C=CC(=C(C1)NC(C(F)(F)F)=O)F | C14H6ClF4N3O
reactant | aminopyridinium iodide | 27 mmol, 5.9 g | [I-].N[N+]1=CC=CC=C1
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | N-{5-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluorophenyl}-2,2,2-trifluoroacetamide | 3.2 g, 55% | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=CC(=C(C2)NC(C(F)(F)F)=O)F | C19H10ClF4N5O
